US08137821B2
Synthesis of 4-fluoro-1-naphthylethyne
Dimethylhydroxymethyl-4-fluoro-1-naphthylacetylene (1.88 g, 8.23 mmol) and NaOH (396 mg, KISHIDA CHEMICAL CO., Ltd., 0.7 mm granular, 98% article, 9.90 mmol) were placed in a 30 mL two-neck flask equipped with a reflux condenser and the air inside the flask was replaced with Ar. 20 mL of toluene was added thereto and the mixture was refluxed at 120° C. for 30 minutes. Diethyl ether was added to the reaction mixture and the mixture was washed with a saturated aqueous ammonium chloride solution and dried over magnesium sulfate. The solvent was distilled off under reduced pressure by an evaporator. The crude reaction product was purified by column chromatography (Hexane/AcOEt=100/0→1/10) using silica gel to give 946 mg of the desired compound as a yellow solid (yield: 67.5%).

reactant | Dimethylhydroxymethyl-4-fluoro-1-naphthylacetylene | 8.23 mmol, 1.88 g | CC=1C(=C(C2=CC=CC=C2C1F)C#CCO)C | C15H13FO
reactant | NaOH | 9.90 mmol, 396 mg | [OH-].[Na+]
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 4-fluoro-1-naphthylethyne | 946 mg, yield: 67.5% | FC1=CC=C(C2=CC=CC=C12)C#C | C12H7F
